US07018559B2
B. Synthesis of 5-n-octyloxymethyl-3-oxatricyclo[3.2.1.02,4]octane
A 500 mL round bottom flask equipped with a stirrer bar was charged with 14.3 g (0.056 mol) of 4-n-octyloxymethyl-bicyclo[2.2.1]hept-2-ene, and 80 mL of methylene choride. Peracetic acid (15.6 g, 35 wt. % in acetic acid; 0.072 mol) in methylene chloride (70 mL) was added dropwise to the above mixture over 20 min. in an ice bath. After the above mixture was reacted at room termperature for 3 hrs., 100 mL of water was added to the above reaction mixture, the organic layer was washed with saturated sodium carbonate solution (2×100 mL), then with water (2×100 mL), and dried with sodium sulfate. The solvent was evaporated and the residue was vacuum distilled to give pure product.

reactant | 4-n-octyloxymethyl-bicyclo[2.2.1]hept-2-ene | 0.056 mol, 14.3 g | C(CCCCCCC)OCC12C=CC(CC1)C2 | C16H28O
reactant | Peracetic acid | 0.072 mol, 15.6 g | C(C)(=O)OO | C2H4O3
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
solvent | methylene choride | 80 mL | C(Cl)Cl | CH2Cl2
product | 5-n-octyloxymethyl-3-oxatricyclo[3.2.1.02,4]octane | C(CCCCCCC)OCC12C3OC3C(CC1)C2 | C16H28O2
